US06900215B2
A mixture of 2′-fluoro-5′-(7-formylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile (100 mg) and O-(2-dimethylaminoethyl)hydroxylamine (150 mg) in ethanol (5 ml) was heated at 55° C. for 16 h then cooled to ambient temperature. The resulting solid was collected by filtration and washed with ice-cold ethanol to give 2′-fluoro-5′-[7-(hydroxyiminomethyl)imidazo[1,2-α]pyrimidin-3-yl]biphenyl-2-carbonitrile as a white solid (30 mg): δH (360 MHz, DMSO) 7.44 (1H, d, J 7), 7.62-7.73 (2H, m), 7.80 (1H, s), 7.89 (1H, dd, J 8 and 1), 7.90-7.93 (2H, m), 8.06 (1H, dd, J 8 and 1), 8.08 (1H, s), 8.13 (1H, s), 9.05 (1H, d, J 7), 12.25 (1H, s); m/z (ES+) 358 (M++H).

reactant | 2′-fluoro-5′-(7-formylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile | 100 mg | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C=O)C=2C(=CC=CC2)C#N | C20H11FN4O
reactant | O-(2-dimethylaminoethyl)hydroxylamine | 150 mg | CN(CCON)C | C4H12N2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2′-fluoro-5′-[7-(hydroxyiminomethyl)imidazo[1,2-α]pyrimidin-3-yl]biphenyl-2-carbonitrile | 30 mg | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C=NO)C=2C(=CC=CC2)C#N | C20H12FN5O
